US04329347
6-[4-(3,4-Dichlorophenyl-sulfinyl)-butoxy]-carbostyril
Prepared analogous to Example 123 from 6-[4-(3,4-dichloro-phenyl-mercapto)-butoxy]-carbostyril and hydrogen peroxide.

reactant | 6-[4-(3,4-dichloro-phenyl-mercapto)-butoxy]-carbostyril | ClC=1C=C(C=CC1Cl)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H17Cl2NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(3,4-Dichlorophenyl-sulfinyl)-butoxy]-carbostyril | ClC=1C=C(C=CC1Cl)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H17Cl2NO3S
